US07582667B2
Preparation of 2′-Amino-2-methoxy-1,1′-dimethyl-7-pyridin-3-yl-10,11-dihydrospiro[dibenzo[a,d][7]annulene-5,4′-imidazol]-5′(1′H)-one
A mixture of 2′-amino-2-methoxy-1′-methyl-7-bromo-10,11-dihydrospiro[dibenzo[a,d][7]annulene-5,4′-imidazol]-5′(1′H)-one (0.130 g; 0.314 mmol), dioxane (5 mL, de-oxygenated), 3-pyridineboronic acid (77.1 mg; 0.628 mmol) and 2.0 N Na2CO3 solution (0.63 mL; 4.0 eq.) was stirred at reflux temperature for one hour, cooled to ambient temperature and concentrated in vacuo. The resultant residue was partitioned in chloroform and water. The organic phase was dried over sodium sulfate, filtered, and evaporated. This residue was purified by HPLC with a Phenomenex CN column using a solvent system consisting of A) hexane and B) dichloromethane/methanol (4:1). A gradient starting at 50% B and increasing to 100% B was used for purification. The purified solid was crystallized from hot ethyl acetate and hexane to yield the title compound as tan crystals, 57 mg (44% yield), mp 235-9° C.; identified by NMR and mass spectral analyses. MS (ES) m/z 413.15 [M+H]+.

reactant | 2′-amino-2-methoxy-1′-methyl-7-bromo-10,11-dihydrospiro[dibenzo[a,d][7]annulene-5,4′-imidazol]-5′(1′H)-one | 0.314 mmol, 0.130 g | NC=1N(C(C2(N1)C1=C(CCC3=C2C=CC(=C3)OC)C=CC(=C1)Br)=O)C | C19H18BrN3O2
reactant | 3-pyridineboronic acid | 0.628 mmol, 77.1 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2.0 N, 0.63 mL, 4.0 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2′-Amino-2-methoxy-1,1′-dimethyl-7-pyridin-3-yl-10,11-dihydrospiro[dibenzo[a,d][7]annulene-5,4′-imidazol]-5′(1′H)-one | 44% yield | NC=1N(C(C2(N1)C1=C(CCC3=C2C=CC(=C3C)OC)C=CC(=C1)C=1C=NC=CC1)=O)C | C25H24N4O2
